US06964961B2
A. (+/−)-Dimethylsulfamic acid {1-[7-chloro-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide
The title compound was prepared from dimethylsulfamoyl chloride and (3-amino-pyrrolidin-1-yl)-(7-chloro-thieno[3,2-b]pyridin-2yl)-methanone by a procedure analogous to Example 64C. MS: 389/391 (MH+); HPLC Rf: 4.26 min.; HPLC purity 99%.

reactant | dimethylsulfamoyl chloride | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | (3-amino-pyrrolidin-1-yl)-(7-chloro-thieno[3,2-b]pyridin-2yl)-methanone | NC1CN(CC1)C(=O)C1=CC2=NC=CC(=C2S1)Cl | C12H12ClN3OS
product | (+/−)-Dimethylsulfamic acid {1-[7-chloro-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide | ClC1=C2C(=NC=C1)C=C(S2)C(=O)N2CC(CC2)NS(N(C)C)(=O)=O | C14H17ClN4O3S2
